US07105544B2
N-(3-{4-[3-(BUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-CHLOROPHENYL)CYCLOPENTANECARBOXAMIDE
Example 102 was prepared from 1-(4-chlorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}butanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.51 (s, 1H), 7.42 (s, 1H), 7.34–7.24 (m, 6H), 6.95 (d, 1H, J=7.6 Hz), 6.57 (br s, 1H), 3.28 (dd, 2H, J=5.6, 11.6 Hz), 2.92 (d, 2H, J=12.0 Hz), 2.53–2.43 (m, 3H), 2.37–2.29 (m, 4H), 1.99–1.91 (m, 4H), 1.83–1.58 (m, 12H), 1.02 (t, 3H, J=7.6 Hz); ESMS m/e: 510.3 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclopentanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}butanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CCC)=O | C18H29N3O
product | N-(3-{4-[3-(BUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-CHLOROPHENYL)CYCLOPENTANECARBOXAMIDE | C(CCC)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1(CCCC1)C1=CC=C(C=C1)Cl | C30H40ClN3O2
